US05292767
trans-4-ethoxycarbonyl-2-(1-mercapto-1-methylethyl)tetrahydrothiophene (compound No. 12-1)
To a stirred solution of trans-4-carboxy-2-(1-mercapto-1-methylethyl)tetrahydrothiophene (compound No. 8-1, 50 mg) in ethanol (3 ml), one drop of concentrated sulfuric acid was added under nitrogen atmosphere and the mixture was stirred for 1.5 hours. After cooling, the reaction mixture was week alkalized with aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo to give 53 mg of the titled compound (compound No. 12-1).

reactant | trans-4-carboxy-2-(1-mercapto-1-methylethyl)tetrahydrothiophene | 50 mg | C(=O)(O)[C@H]1C[C@@H](SC1)C(C)(C)S | C8H14O2S2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | trans-4-ethoxycarbonyl-2-(1-mercapto-1-methylethyl)tetrahydrothiophene | 53 mg | C(C)OC(=O)[C@H]1C[C@@H](SC1)C(C)(C)S | C10H18O2S2
